US07338960B2
3-(Bromomethyl)-4′-(trifluoromethyl)biphenyl
A solution of [4′-(trifluoromethyl)-3-biphenylyl]methanol (177 mg, 0.70 mmol) in dry DCM (10 mL) was cooled to 0° C. (ice/water bath) under nitrogen and treated with CBr4 (256 mg, 0.77 mmol) in one portion. PPh3 (202 mg, 0.77 mmol) was then added portion-wise and the resulting mixture stirred for 1 hour at this temperature and was then allowed to warm to rt. The resulting mixture was then reduced and the residue purified directly by SPE (silica, 10 g cartridge) eluting with cyclohexane:DCM afforded the title compound as a colourless oil (220 mg).

reactant | [4′-(trifluoromethyl)-3-biphenylyl]methanol | 0.70 mmol, 177 mg | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)CO)(F)F | C14H11F3O
reactant | CBr4 | 0.77 mmol, 256 mg | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 0.77 mmol, 202 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(Bromomethyl)-4′-(trifluoromethyl)biphenyl | 220 mg | BrCC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C14H10BrF3
